US08349824B2
The product was prepared in the same manner as described in example 3 using 5-(2-(2-fluoropyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid (80 mg, 210 μmol, 1 eq.) and morpholine (54.8 μl, 629 μmol) as starting materials. The reaction affords 2-methyl-4-(morpholine-4-carbonyl)-2H-pyrazole-3-carboxylic acid [2-(2-fluoro-pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-yl]-amide (48 mg, 50.8%) as white solid. mp: 267-269° C., MS: m/z=451.0 (M+H+).

reactant | 5-(2-(2-fluoropyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid | 210 μmol, 80 mg, 1 eq. | FC1=NC=CC=C1C1=NN2C(C=C(C=C2)NC(=O)C2=C(C=NN2C)C(=O)O)=N1 | C17H12FN7O3
reactant | morpholine | 629 μmol, 54.8 μl | N1CCOCC1 | C4H9NO
product | 2-methyl-4-(morpholine-4-carbonyl)-2H-pyrazole-3-carboxylic acid [2-(2-fluoro-pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-yl]-amide | 48 mg, 50.8% | FC1=NC=CC=C1C1=NN2C(C=C(C=C2)NC(=O)C=2N(N=CC2C(=O)N2CCOCC2)C)=N1 | C21H19FN8O3
